US07846959B2
A solution of 2-({1-[tris(1-methylethyl)silyl]-1H-indazol-5-yl}carbonyl)benzonitrile in ethanol (2.0 mL) and 20% aqueous sodium hydroxide solution (2.0 mL) was refluxed for 30 min. Solid citric acid was added to pH 3-4. The reaction mixture was diluted with ethyl acetate, dried (sodium sulfate), filtered and concentrated in vacuo to give 0.19 g (>100% crude yield) of 2-(1H-indazol-5-ylcarbonyl)benzoic acid. NMR analysis confirmed the concurrent loss of the triisopropylsilyl protecting group during this step. The crude acid was used without further purification for the next step. 1H NMR (400 MHz, d4-MeOH): 8.14 (m, 1H), 8.10 (m, 1H), 8.05 (m, 1H), 7.75 (m, 3H), 7.63 (d, 1H), 7.57 (m, 1H).

reactant | 2-({1-[tris(1-methylethyl)silyl]-1H-indazol-5-yl}carbonyl)benzonitrile | CC(C)[Si](N1N=CC2=CC(=CC=C12)C(=O)C1=C(C#N)C=CC=C1)(C(C)C)C(C)C | C24H29N3OSi
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethanol | 2.0 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 2.0 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1H-indazol-5-ylcarbonyl)benzoic acid | 0.19 g | N1N=CC2=CC(=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1 | C15H10N2O3
